US05475106
Using a procedure similar to that described in Example 27, but starting with tert-butyl 2-{2-amino-N-[2-(1,2,3,4-tetrahydro-1-quinolyl)carbonylphenyl]acetamido}acetate (2 g) and 3-methylphenyl isocyanate (0.63 g), and after recrysallisation in ethyl acetate, tert-butyl 2-{2-[3-(3-methylphenyl)ureido]-N-[2-(1,2,3,4-tetrahydro-1-quinolyl)carbonylphenyl]acetamido}acetate (1.2 g), m.p. 160° C., is obtained.

reactant | tert-butyl 2-{2-amino-N-[2-(1,2,3,4-tetrahydro-1-quinolyl)carbonylphenyl]acetamido}acetate | 2 g | NCC(=O)N(C1=C(C=CC=C1)C(=O)N1CCCC2=CC=CC=C12)CC(=O)OC(C)(C)C | C24H29N3O4
reactant | 3-methylphenyl isocyanate | 0.63 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 2-{2-[3-(3-methylphenyl)ureido]-N-[2-(1,2,3,4-tetrahydro-1-quinolyl)carbonylphenyl]acetamido}acetate | 1.2 g | CC=1C=C(C=CC1)NC(NCC(=O)N(C1=C(C=CC=C1)C(=O)N1CCCC2=CC=CC=C12)CC(=O)OC(C)(C)C)=O | C32H36N4O5
